US05853699
a) α-Oxo-4-ethoxyphenylacetic acid-propyl ester
10.4 g (50 mmol) of α-oxo-4-ethoxyphenylacetic acid (Bandyopahyay et al., J. Ind. Chem. Soc. 66(4), 239, 1989) and 1.0 g of p-toluenesulfonic acid-monohydrate are refluxed into a mixture of 100 ml of toluene and 50 ml of N-propanol while in a water separator until no more water separates out. Then, it is concentrated by evaporation in a vacuum, the residue is dispersed between ethyl acetate and sodium bicarbonate solution, the organic phase is dried on magnesium sulfate, filtered and concentrated by evaporation.

reactant | α-oxo-4-ethoxyphenylacetic acid | 50 mmol, 10.4 g | O=C(C(=O)O)C1=CC=C(C=C1)OCC | C10H10O4
reactant | p-toluenesulfonic acid-monohydrate | 1.0 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
reactant | N-propanol | 50 ml | CCCO | C3H8O
solvent | water | O | H2O
product | α-Oxo-4-ethoxyphenylacetic acid-propyl ester | C(CC)OC(C(=O)C1=CC=C(C=C1)OCC)=O | C13H16O4
